US04009208
88. N,N'-(3-Heptene-1,7-diyl)bis(4-methoxybenzamide)
m.p. 141°-143° C., 10.2 g., was prepared as in Example 21 using 8.37 g. of 3-heptene-1,7-diamine, 50 ml. of ethylene dichloride, 18.0 g. of potassium carbonate, 100 ml. of water, 22.4 g. of 4-methoxybenzoyl chloride in 50 ml. ethylene dichloride and recrystallization from methanol.

reactant | 3-heptene-1,7-diamine | C(CC=CCCCN)N | C7H16N2
reactant | ethylene dichloride | C(CCl)Cl | C2H4Cl2
reactant | potassium carbonate | C([O-])([O-])=O.[K+].[K+]
reactant | 4-methoxybenzoyl chloride | COC1=CC=C(C(=O)Cl)C=C1 | C8H7ClO2
solvent | water | O | H2O
product | N,N'-(3-Heptene-1,7-diyl)bis(4-methoxybenzamide) | C(CC=CCCCNC(C1=CC=C(C=C1)OC)=O)NC(C1=CC=C(C=C1)OC)=O | C23H28N2O4
